US06476021B1
Synthesis of 2-(3-pyridylmethyl)-3H,7H-pyrido[3,2,1-de]acridin-3,7-dione
According to Example 5<steps 1 and 2>,9(10H)-acridone (10 g) was reacted with methyl acrylate (11.5 mL) to obtain the title compound (1.8 g; 13%).

reactant | 9(10H)-acridone | 10 g | C1=CC=CC=2NC3=CC=CC=C3C(C12)=O | C13H9NO
reactant | methyl acrylate | 11.5 mL | C(C=C)(=O)OC | C4H6O2
product | 2-(3-pyridylmethyl)-3H,7H-pyrido[3,2,1-de]acridin-3,7-dione | 1.8 g, 13% | N1=CC(=CC=C1)CC=1C(C=2C=CC=C3C(C=4C=CC=CC4N(C23)C1)=O)=O | C22H14N2O2
